US06756378B2
A stirred mixture of 4-[4-benzyloxy-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]-3-methoxybenzoate (440 mg, 0.645 mmol) and 5% Pd/C (400 mg) in AcOH:EtOH (1:1, v/v, 100 mL) was hydrogenated at 1 atm for 5 hr. The mixture was filtered to remove the catalyst and the filtrate was concentrated in vacuo. The residue was chromatographed on silica-gel with CHCl3:EtOH (10:1, v/v) as eluent to give 90 mg (24%) ethyl 4-[4-hydroxy-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]-3-methoxybenzoate as a pale yellow oil. 1H-NMR (CDCl3) δ1.39 (3 H, t, J=7.3 Hz), 2.04-2.37 (total 5 H, m), 3.44-4.70 (16 H, series of m), 6.63 (1 H, s), 6.70-6.80 (2 H, m), 6.84 (1 H, d, j=8.3 Hz), 7.11 (1 H, t, J=7.8 Hz), 7.20-7.24(3 H, m), 7.45 (1 H, d, J=2.0 Hz), 7.59 (2 H, dd, J=8.3, 2.0 Hz), 8.01 (1 H, d, J=7.8 Hz).

reactant | 4-[4-benzyloxy-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]-3-methoxybenzoate | 0.645 mmol, 440 mg | C(C1=CC=CC=C1)OC1CC(N(C1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)COC1=C(C=C(C(=O)[O-])C=C1)OC
reactant | AcOH EtOH | 100 mL | CC(=O)O.CCO
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | ethyl 4-[4-hydroxy-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]-3-methoxybenzoate | 90 mg, 24% | OC1CC(N(C1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)COC1=C(C=C(C(=O)OCC)C=C1)OC | C32H37N3O8
